US07153855B2
3-{7-(Cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}benzonitrile (45 mg, 0.097 mmol) was dissolved in hot methanol (2 mL). Subsequently, the solution was cooled down to room temperature and 30% ammonium hydroxide (2 mL) was added. The reaction mixture was then cooled to 0° C., and 30% hydrogen peroxide was added. After stirring at room temperature for 8 hours, water was added and the resulting mixture extracted with ethyl acetate. The organics were dried over magnesium sulfate. Filtration and concentration, followed by purification with flash chromatography (95:5 dichloromethane:methanol), gave 3-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}benzamide (18 mg, 39% yield) as a yellow solid. 1H NMR (CDCl3): δ 8.12 (s, 1H), 7.99 (d, 1H), 7.92 (d, 1H), 7.79 (d, 1H), 7.70 (d, 1H), 7.51 (t, 1H), 7.32 (t, 1H), 6.28 (d, 1H), 6.18 (broad, 1H), 6.05 (d, 1H), 6.02 (d, 1H), 5.82 (broad, 1H), 5.25 (d, 1H), 4.30 (m, 1H), 4.00 (m, 1H), 2.15 (m, 2H), 2.03 (m, 2H), 1.81–1.50 (m, 12H). MS m/z 482 (M+1).

reactant | 3-{7-(Cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}benzonitrile | 0.097 mmol, 45 mg | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C=2C=C(C#N)C=CC2 | C28H29N7
reactant | ammonium hydroxide | 2 mL | [OH-].[NH4+]
reactant | hydrogen peroxide | OO | H2O2
reactant | water | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 3-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}benzamide | 18 mg, 39% yield | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C=2C=C(C(=O)N)C=CC2 | C28H31N7O
